US06380230B1
A) Benzyl 5-methyl-2-indolecarboxylate
2.43 g of 5-methyl-2-indolecarboxylic acid are dissolved in 15 ml of DMF; 2.11 g of DBU are added and the mixture is then left stirring for 1 hour at RT. 2.61 g of benzyl bromide are added dropwise and the mixture is then left stirring for 6 hours at RT. This mixture is concentrated under vacuum and the residue is taken up in EtOAc, washed with water, with saturated Na2CO3 solution, with sulphate buffer and then with saturated aqueous NaCl. It is dried over Na2SO4 and then concentrated. The residue crystallizes from pentane and 3.3 g of the expected compound are obtained: m.p.=150-152° C.

reactant | 5-methyl-2-indolecarboxylic acid | 2.43 g | CC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO2
reactant | DBU | 2.11 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | benzyl bromide | 2.61 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Benzyl 5-methyl-2-indolecarboxylate | CC=1C=C2C=C(NC2=CC1)C(=O)OCC1=CC=CC=C1 | C17H15NO2
